US04880812
Freshly distilled acetic anhydride (250 ml) was added to a solution of 2-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde diethyl acetal (Chem. Ber., 1977, 110, 1462) (50.0 g, 0.206 mol). The solution was protected from moisture and heated on a steam bath with magnetic stirring for 5 days. The reaction was spin evaporated in vacuo with the addition of ethylene glycol monomethyl either under aspirator and finally mechanical pump vacuum. The residue was recrystallized from ether to yield 23.0 g (30% of theory) of 2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde diethyl acetal, mp 128°-130°. The analytical sample was prepared by dissolving the sample in chloroform and washing the solution through Superfiltrol μ19 (Filtrol Corporation). The solution was spin evaporated in vacuo and the residue was recrystallized from ether/cyclohexanes, to give analytically pure material, mp 129°-130°.

reactant | 2-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde diethyl acetal | 0.206 mol, 50.0 g | C(C)OC(CC1=C(N=C(NC1=O)N)N)OCC | C10H18N4O3
solvent | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde diethyl acetal | 23.0 g, 30% | C(C)OC(CC1=C(N=C(NC1=O)NC(C)=O)N(C(C)=O)C(C)=O)OCC | C16H24N4O6
